US04837217
Preparation of 2-t-butyl-4-chloro-5-{4-(2-ethoxy-1-methylethoxy)-benzylthio}-3(2H)-pyridazinone (Compound No. 513)
In 15 ml of N,N-dimethylformamide were dissolved 1.4 g of 2-t-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone and 2.0 g of 4-(2-ethoxy-1-methylethoxy)-benzyl bromide, and thereto was added 1.0 g of anhydrous sodium carbonate. The reaction mixture was stirred overnight at room temperature. Then, similarly to the procedures in Preparation Example 12, there was obtained 2.0 g of the aimed compound, m.p. 89.2°~90.2° C.

reactant | 2-t-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone | 1.4 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)S | C8H11ClN2OS
reactant | 4-(2-ethoxy-1-methylethoxy)-benzyl bromide | 2.0 g | C(C)OCC(OC1=CC=C(CBr)C=C1)C | C12H17BrO2
reactant | sodium carbonate | 1.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-t-butyl-4-chloro-5-{4-(2-ethoxy-1-methylethoxy)-benzylthio}-3(2H)-pyridazinone | 2.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)SCC1=CC=C(C=C1)OC(COCC)C | C20H27ClN2O3S
